US04536499
A solution of 2.0 g (0.0054 mole) of N,N-dimethyl-2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionamide in 80 ml tetrahydrofuran is added to a suspension of 0.82 g (0.0216 mole) of lithium aluminum hydride in 40 ml tetrahydrofuran dropwise, maintaining the temperature between 20° and 25° C. After the addition is complete the mixture is stirred at room temperature for two hours, cooled and quenched by the addition of 2 ml of water in 20 ml tetrahydrofuran. The resulting mixture is dried over magnesium sulfate, filtered and evaporated. The solid residue is recrystallized from ethanol to give 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(3-dimethylaminopropyl)-indole m.p. 156° to 157° C.

reactant | N,N-dimethyl-2-(5-methyl-3-phenyl-4-isoxazolyl)-3-indole propionamide | 0.0054 mole, 2.0 g | CN(C(CCC1=C(NC2=CC=CC=C12)C=1C(=NOC1C)C1=CC=CC=C1)=O)C | C23H23N3O2
reactant | lithium aluminum hydride | 0.0216 mole, 0.82 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 2-(5-methyl-3-phenyl-4-isoxazolyl)-3-(3-dimethylaminopropyl)-indole | CC1=C(C(=NO1)C1=CC=CC=C1)C=1NC2=CC=CC=C2C1CCCN(C)C | C23H25N3O
